US05840892
Preparation of (+/-)-3-(4,6-dimethoxy-2-pyrimidinyloxy)-2-butanone
4.38 g (25 mmol) of 2-chloro-4,6-dimethoxypyrimidine, 2.31 g (26.2 mmol) of 3-hydroxy-2-oxobutane and 0.66 g (6.3 mmol) of sodium methanesulfinate were heated in the presence of 5.17 g (37.5 mmol) of potassium carbonate in 25 ml of N,N-dimethylformamide to 120° C. with stirring. After 3 hours, the solvent was removed in a rotary evaporator at 70° C./20 mbar. The residue was purified by chromatography on a silica gel column (eluent hexane/ethyl acetate 4:1). The title product was obtained from the product fraction in the form of a pale yellowish oil in a yield of 4.58 g (80.4 percent of theory) (GC content 99 percent). Other data concerning the title compound was:

reactant | 2-chloro-4,6-dimethoxypyrimidine | 25 mmol, 4.38 g | ClC1=NC(=CC(=N1)OC)OC | C6H7ClN2O2
reactant | 3-hydroxy-2-oxobutane | 26.2 mmol, 2.31 g | OC(C(C)=O)C | C4H8O2
reactant | sodium methanesulfinate | 6.3 mmol, 0.66 g | CS(=O)[O-].[Na+]
reactant | potassium carbonate | 37.5 mmol, 5.17 g | C([O-])([O-])=O.[K+].[K+]
solvent | N,N-dimethylformamide | 25 ml | CN(C=O)C | C3H7NO
product | (+/-)-3-(4,6-dimethoxy-2-pyrimidinyloxy)-2-butanone | COC1=NC(=NC(=C1)OC)OC(C(C)=O)C | C10H14N2O4
